US05583227
In accordance with the procedure of the step 1 of Example 10, and using 34.5 g of 3-methyl-1-butyn-3-ol and 69.0 g of 2-bromoethyl ethyl ether, 40.9 g of 3-(2-ethoxyethoxy)-3-methyl-1-butyne was obtained.

reactant | 3-methyl-1-butyn-3-ol | 34.5 g | CC(C#C)(C)O | C5H8O
reactant | 2-bromoethyl ethyl ether | 69.0 g | C(C)OCCBr | C4H9BrO
product | 3-(2-ethoxyethoxy)-3-methyl-1-butyne | 40.9 g | C(C)OCCOC(C#C)(C)C | C9H16O2
